US07491821B2
2-Fluorobenzoic acid (6 g, 42.8 mmole) was dissolved in 300 mL of anhydrous THF and the resulting reaction solution was cooled to 0° C. To this solution was added sodium hydride (1.88 g of a 60% oil dispersion, 47.1 mmole). The reaction mixture was allowed to warm to room temperature over 1 h. The THF was removed by evaporation before addition of 2-chloro-3-oxo-3-phenyl-propionic acid ethyl ester (9.7 g, 42.8 mmole) in 250 mL of ethanol. Reaction solution was warmed at reflux for 24 h. The ethanol was removed by evaporation and the resulting product was dissolved in water and extracted with toluene. The toluene was washed with 2 N aqueous Na2CO3, and saturated NaCl. The resulting toluene layer was concentrated and purified by chromatography (5-8% ethyl acetate in hexanes gradient) providing 2-fluoro-benzoic acid 1-ethoxycarbonyl-2-oxo-2-phenyl-ethyl ester (Intermediate XVIIb, 5.3 g, 38% yield)

reactant | 2-Fluorobenzoic acid | 42.8 mmole, 6 g | FC1=C(C(=O)O)C=CC=C1 | C7H5FO2
reactant | sodium hydride | [H-].[Na+]
reactant | 2-chloro-3-oxo-3-phenyl-propionic acid ethyl ester | 42.8 mmole, 9.7 g | C(C)OC(C(C(C1=CC=CC=C1)=O)Cl)=O | C11H11ClO3
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | ethanol | 250 mL | C(C)O | C2H6O
product | 2-fluoro-benzoic acid 1-ethoxycarbonyl-2-oxo-2-phenyl-ethyl ester | 5.3 g, 38% yield | C(C)OC(=O)C(C(C1=CC=CC=C1)=O)OC(C1=C(C=CC=C1)F)=O | C18H15FO5
